US09260427B2
A stirring mixture of 1,1,3,3-tetramethylguanidine (86 μl, 0.69 mmol) was added to a suspension of 4-(5-(4-(heptyloxy)phenyl)thiazol-2-yl)benzaldehyde (260 mg, 0.685 mmol) and methyl 2-((tert-butoxycarbonyl)amino)-2-(dimethoxyphosphoryl)acetate (185 mg, 0.62 mmol) in anhydrous THF (10 mL) under nitrogen, at −70° C. The reaction mixture was stirred at −70° C. for 1 h then at room temperature for 18 h. The reaction mixture was diluted with DCM (50 mL), washed with water (50 mL), passed through a phase separation cartridge and the organic phase concentrated in vacuo to afford a yellow solid. The solid was triturated with EA/EtOH (20 mL) and the collected solid washed with EtOH (10 mL) and Et2O to afford 284 mg (79%) of methyl 2-((tert-butoxycarbonyl)amino)-3-(4-(5-(4-(heptyloxy)phenyl)thiazol-2-yl)phenyl)acrylate as a yellow solid. LCMS-ESI (m/z) calculated for C31H38N2O5S: 550.7. found 551.0 [M+H]+, tR=3.11 min. (Method 8).

reactant | 1,1,3,3-tetramethylguanidine | 0.69 mmol, 86 μl | CN(C(=N)N(C)C)C | C5H13N3
reactant | 4-(5-(4-(heptyloxy)phenyl)thiazol-2-yl)benzaldehyde | 0.685 mmol, 260 mg | C(CCCCCC)OC1=CC=C(C=C1)C1=CN=C(S1)C1=CC=C(C=O)C=C1 | C23H25NO2S
reactant | methyl 2-((tert-butoxycarbonyl)amino)-2-(dimethoxyphosphoryl)acetate | 0.62 mmol, 185 mg | C(C)(C)(C)OC(=O)NC(C(=O)OC)P(=O)(OC)OC | C10H20NO7P
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
product | methyl 2-((tert-butoxycarbonyl)amino)-3-(4-(5-(4-(heptyloxy)phenyl)thiazol-2-yl)phenyl)acrylate | 284 mg, 79% | C(C)(C)(C)OC(=O)NC(C(=O)OC)=CC1=CC=C(C=C1)C=1SC(=CN1)C1=CC=C(C=C1)OCCCCCCC | C31H38N2O5S
